US04547506
A mixture of sodium hydride (0.95 g) and 2-(3-aminopropylamino) pyridine (5.4 g) in DMSO (25 ml) was heated slowly to 85° C. under nitrogen. After the evolution of hydrogen had ceased the solution was cooled to room temperature and 4-methoxybenzyl chloride (5.59 g) in DMSO (5 ml) added dropwise keeping the temperature below 30° C. After a further 1 hr, water (300 ml) was added and the mixture extracted with ether. The extract was washed with 2N hydrochloric acid. The pH of the acid washings was adjusted to 4-5. After extracting with chloroform the pH was raised to 14 and extracted with ether. The ether extract was washed with water, dried (K2CO3) and stripped to give 2-[N-(3-aminopropyl)-N-(4-methoxybenzyl)-amino]pyridine (7.19 g) as an oil which was used without further purification. (ii) 2-[N-(3-aminopropyl)-N-(4-methoxybenzyl)amino]pyridine (1.0 g) and 2-nitroamino-5-(6-methylpyrid-3 -ylmethyl)pyrimid-4-one (0.8 g) were heated together under reflux in pyridine (10 ml) for 20 hr. On cooling, the mixture was stripped, the residue triturated with ether and recrystallised twice from ethanol/water to give 2-[3-[N-(4-methoxybenzyl)-N-pyrid-2-ylamino]propylamino]-5-(6-methylpyrid-3-ylmethyl)pyrimid-4-one 1H2O, 0.72 g (48%), mp 90°-98° C. (softens).

reactant | sodium hydride | 0.95 g | [H-].[Na+]
reactant | 2-(3-aminopropylamino) pyridine | 5.4 g | NCCCNC1=NC=CC=C1 | C8H13N3
reactant | hydrogen | [H][H] | H2
reactant | 4-methoxybenzyl chloride | 5.59 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
solvent | water | 300 ml | O | H2O
product | 2-[N-(3-aminopropyl)-N-(4-methoxybenzyl)-amino]pyridine | 7.19 g | NCCCN(CC1=CC=C(C=C1)OC)C1=NC=CC=C1 | C16H21N3O
